Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:7].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9],-2.18879723107
[C:1]#[C:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][C:3](=[C:4][H:5])[C:6]#[C:8][H:9].[H:7],2.20029877856
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[C:5](#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],-0.5851627368810001
[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11],2.8073267369700003
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:5][H:6].[O:1]=[C:2]([C:3][H:4])[C:7]([H:8])([H:9])[O:10][H:11],7.96384333388
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-1.54205346896
[C:4]#[C:5][H:6].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[H:11])[H:7]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-6.00968497543
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.92856611039
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],5.89070615
[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.59443610008
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.37556924176
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:8][H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],8.66333743269
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4][H:5])[C:9]([H:10])([H:11])[H:12],6.64478053767
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],4.95470158496
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.50712225016
[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-7.74576294994
[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-4.93495073584
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.841055139
[C:4]([H:5])[H:6].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])[H:6],-7.47526565146
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](\[H:4])([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.94312200437
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.42083377024
[C:1]=[C:2]([O:3][H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:11]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.85205642809
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.690385319839
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.92139341181
[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.84350722225
[O:1][O:2][C:3][C:6]([C:4][H:5])([H:7])[H:8]>>[O:1][O:2][C:3]1=[C:4]([H:5])[C:6]1([H:7])[H:8],-4.47879253439
[O:1]=[C:2][C@@:3]([H:4])([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:8]([H:9])([H:10])[H:11],4.07276571061
[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.9529838701
[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:8]([O:7][C:4]([H:5])[H:6])([H:9])[H:10],0.147140798251
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]#[C:11][H:12].[H:9],3.98481355561
[C:2][O:3][C:4]#[C:5][H:6].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][H:6],-3.575331294
